US08309546B2
5-[8-(cis-3,5-Dimethylpiperazin-1-yl)-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl]pyrimidin-2-amine
A mixture of 5-[8-chloro-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl]pyrimidin-2-amine (100 mg, 0.24 mmol), cis-2,6-dimethylpiperazine (82 mg, 0.72 mmol), and dimethyl sulfoxide (800 μl) was stirred at 150° C. for 1.5 hours. The reaction mixture was cooled and then partitioned with ethyl acetate and water and the organic layer was washed twice with saturated brine and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (chloroform:methanol=9:1) to give the title compound (64 mg, 57%) as a light brown solid.

reactant | 5-[8-chloro-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl]pyrimidin-2-amine | 0.24 mmol, 100 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC1COCC1 | C18H21ClN8O2
reactant | cis-2,6-dimethylpiperazine | 0.72 mmol, 82 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
solvent | dimethyl sulfoxide | 800 μl | CS(=O)C | C2H6OS
product | 5-[8-(cis-3,5-Dimethylpiperazin-1-yl)-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl]pyrimidin-2-amine | 64 mg, 57% | C[C@@H]1CN(C[C@@H](N1)C)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC1COCC1 | C24H34N10O2
